US07671205B2
A mixture of 4-cyanophenol and methyl bromoacetate in CH3CN was treated with K2CO3 and refluxed for 18 hours. Then the reaction was cooled to room temperature and concentrated. The residue was partitioned between EtOAc and H2O and the organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. Flash chromatography (SiO2, hexanes/EtOAc) gave pure methyl 2-(4-cyanophenoxy)acetate.

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | CC#N | C2H3N
product | methyl 2-(4-cyanophenoxy)acetate | C(#N)C1=CC=C(OCC(=O)OC)C=C1 | C10H9NO3
